US04914202
2-[3-Chlorophenyl]-4-[1-methylethyl]morpholine hydrochloride
The title compound, m.p. 224°-5° C. (methanol-ethyl acetate), was prepared from 2-[3-chlorophenyl]-4-[1-methylethyl]-5-oxomorpholine and borane-methyl sulphide by an analogous procedure to that described in Example 1.

reactant | 2-[3-chlorophenyl]-4-[1-methylethyl]-5-oxomorpholine | ClC=1C=C(C=CC1)C1CN(C(CO1)=O)C(C)C | C13H16ClNO2
reactant | borane methyl sulphide | B.CSC
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 2-[3-Chlorophenyl]-4-[1-methylethyl]morpholine hydrochloride | Cl.ClC=1C=C(C=CC1)C1CN(CCO1)C(C)C | InChI=1S/C13H18ClNO.ClH/c1-10(2)15-6-7-16-13(9-15)11-4-3-5-12(14)8-11;/h3-5,8,10,13H,6-7,9H2,1-2H3;1H
